US05763473
4-(5-Nitro-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid ethyl ester
To a suspension of sodium hydride, 60% dispersion in oil (1.0 g; 25 mmol) in DMF (30 mL), a solution of 2-propyl-5-nitrobenzoimidazole (4.2 g; 20 mmol) in DMF (30 mL) was added dropwise over 10 minutes. After addition, the reaction mixture was stirred at ambient temperature for 30 minutes, then methyl 4- (bromomethyl)benzoate (4.7 g; 20 mmol) was added. The reaction mixture was heated at 80° C. for 18 hours, then concentrated to a thick oil. The oil was extracted with ethyl acetate and water. The ethyl acetate layer was concentrated to dryness. The residue (1.3 g) was subjected to flash chromatography on silica gel (hexane/EtOAc; 7:3) to obtain 365 mg of yellow solid. Recrystallization from hexane/EtOAc gave the title compound, m.p. 136°-138° C. Anal. Calcd. for C20H21N3O4 : C, 65.38; H, 5.74; N, 11.44.. Found: C, 65.15; H, 5.75; N, 11.26. Mass spectrum (EI; M+) m/z 367. 1H-NMR (DMSO-d6 ; 400 MHz) δ 8.5 (d, 1H), 8.1 (dd, 1H), 7.9 (d, 2H), 7.7 (d, 1H), 7.2 (d, 2H), 5.7 (s, 2H), 4.3-4.3 (q, 2H), 2.8 (t, 2H), 1.7-2.0 (m, 2H), 1.24-1.3 (t, 3H), and 0.90-0.95 ppm (t, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-propyl-5-nitrobenzoimidazole | 20 mmol, 4.2 g | C(CC)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C10H11N3O2
reactant | methyl 4- (bromomethyl)benzoate | 20 mmol, 4.7 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(5-Nitro-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid ethyl ester | 365 mg | C(C)OC(C1=CC=C(C=C1)CN1C(=NC2=C1C=CC(=C2)[N+](=O)[O-])CCC)=O | C20H21N3O4
